US05124459
3-Formyl-2-(3-pyridyl)-4-thiazolidinecarboxylic acid (10 g) is suspended in dichloromethane (15 cc) in a 50 cc three-necked flask equipped with a condenser, a dropping funnel, a magnetic stirrer, a thermometer and a gas-holder. Then triethylamine (4.8 g) is added at 20° C. A homogeneous colourless solution is obtained. This solution is added dropwise in the course of 50 minutes and at 25° C. to a stirred mixture of methanesulphonyl chloride (5.29 g) and dichloromethane (17 cc). 2-Chloroacrylonitrile (4.04 g) is then added quickly, followed at 20°-35° C. and over the course of one hour, by triethylamine (9.35 g) and dichloromethane (5 cc). The mixture is then refluxed for 50 minutes. After cooling, it is hydrolysed with water (12 cc). The organic phase is decanted and the aqueous phase extracted with dichloromethane. The organic extracts are combined and dried overnight over sodium sulphate. After filtering, the solvent is evaporated off under reduced pressure 20 mm Hg; 2.7 kPa) at 20° C. A crude product (9 g) is obtained, and is purified by chromatography on a column diameter 4.5 cm) containing silica (100 g) (0.063-0.2 mm), eluting with a mixture of ethyl acetate and dichloromethane. 7-Cyano-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole (7.10 g) is thereby obtained in the form of light beige-coloured crystals m.p. 108° C. (yield 82.5% relative to the acid used).

reactant | 3-Formyl-2-(3-pyridyl)-4-thiazolidinecarboxylic acid | 10 g | C(=O)N1C(SCC1C(=O)O)C=1C=NC=CC1 | C10H10N2O3S
reactant | triethylamine | 4.8 g | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 5.29 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-Chloroacrylonitrile | 4.04 g | ClC(C#N)=C | C3H2ClN
reactant | triethylamine | 9.35 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 5 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 17 cc | ClCCl | CH2Cl2
solvent | water | 12 cc | O | H2O
product | 7-Cyano-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole | 7.10 g, yield 82.5% | C(#N)C=1C=CN2C(SCC21)C=2C=NC=CC2 | C12H9N3S
